US08957203B2
To a solution of 1-chloro-4-methoxy-N,N-dimethylisoquinolin-6-amine (250 mg, 1.056 mmol) in DMSO (5 mL) was added tetramethylammonium fluoride (295 mg, 3.17 mmol) and the solution was heated to 110° C. for 1 h. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using 80% DCM/hexanes. The product fractions were collected and the solvent removed under vacuum to give 1-fluoro-4-methoxy-N,N-dimethylisoquinolin-6-amine (130 mg, 56% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.00 (d, J=9.3 Hz, 1H), 7.37 (d, J=1.3 Hz, 1H), 7.28-7.24 (m, 1H), 7.17 (s, 1H), 4.04 (s, 3H), 3.20 (s, 6H); MS m/z 221.0 (M++1).

reactant | 1-chloro-4-methoxy-N,N-dimethylisoquinolin-6-amine | 1.056 mmol, 250 mg | ClC1=NC=C(C2=CC(=CC=C12)N(C)C)OC | C12H13ClN2O
reactant | tetramethylammonium fluoride | 3.17 mmol, 295 mg | [F-].C[N+](C)(C)C
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | Ethylacteate | C(C)OC(C)=O | C4H8O2
product | 1-fluoro-4-methoxy-N,N-dimethylisoquinolin-6-amine | 130 mg, 56% yield | FC1=NC=C(C2=CC(=CC=C12)N(C)C)OC | C12H13FN2O
